US04470986
A solution of 5-(4-chlorobutyl)imidazo[1,5-a]pyridine (5.73 g), potassium cyanide (7.18 g) and 1.0 g of dibenzo-18-crown-6 in 190 ml of acetonitrile is heated at reflux for 18 hours, cooled and evaporated to a residual oil which is partitioned between water and methylene chloride. The organic phase is dried over sodium sulfate and evaporated. The resulting solid is dissolved in ethyl acetate and filtered through 60.0 g of silica gel to yield 5-(4-cyanobutyl)-imidazo[1,5-a]pyridine m.p. 72°-75°.

reactant | 5-(4-chlorobutyl)imidazo[1,5-a]pyridine | 5.73 g | ClCCCCC1=CC=CC=2N1C=NC2 | C11H13ClN2
reactant | potassium cyanide | 7.18 g | [C-]#N.[K+]
reactant | dibenzo-18-crown-6 | 1.0 g | C1COC2=CC=CC=C2OCCOCCOC3=CC=CC=C3OCCO1 | C20H24O6
solvent | acetonitrile | 190 ml | C(C)#N | C2H3N
product | 5-(4-cyanobutyl)-imidazo[1,5-a]pyridine | C(#N)CCCCC1=CC=CC=2N1C=NC2 | C12H13N3
